* 5T OTA (NMOS input pair, PMOS current-mirror load, NMOS current-mirror tail bias)
* sky130 schematic-level netlist BODY -- no .control/.end (klt sim wraps this).
* Device W/L are in microns (sky130_fd_pr subckt convention).
*
* Reused verbatim from examples/design-pipeline/ota_5t.spice (the Epic #105
* Phase 3 staged-pipeline worked example, see blocks/sky130-ota-5t/NOTE.md),
* which is itself S10-simulation-verified across 20 process/supply/temperature
* corners (see examples/design-pipeline/sim-ac.result.json and
* sim-op.result.json). This copy backs kb/entries/five-transistor-ota.json's
* `measured` block at a single named corner rather than the full sweep --
* see this directory's request.json.
*
* Open-loop gain is characterized with a DC feedback network (Lfb/Cfb) that
* holds the output at the common-mode operating point (out = vcm) at DC while
* opening the loop at AC -- the standard way to measure open-loop gain without
* the output floating to a fragile, corner-dependent balance point. At AC, Lfb
* is open and Cfb ties inn to the AC ground, so vid = v(inp) - vcm = the AC
* drive and v(out)/vac is the open-loop transfer.
.param vdd=1.8
.param vcm=0.9
.param ibias=20u
.param cl=1p

* --- supplies and stimulus ---
Vdd  vdd 0 DC {vdd}
Vcm  cm  0 DC {vcm}
* single-ended AC drive on inp (magnitude 1 so v(out) magnitude == open-loop gain)
Vin  inp cm DC 0 AC 1
* ideal bias reference current injected into the tail mirror diode
Iref vdd nbias DC {ibias}
* output load
CL   out 0 {cl}

* --- DC feedback: closes at DC to bias out=vcm, opens at AC ---
Lfb  out inn 1e9
Cfb  inn cm  1e3

* --- tail current mirror (NMOS) ---
XM5b nbias nbias 0 0 sky130_fd_pr__nfet_01v8 L=1   W=10 nf=1 mult=1
XM5  tail  nbias 0 0 sky130_fd_pr__nfet_01v8 L=1   W=10 nf=1 mult=1

* --- input differential pair (NMOS) ---
XM1  n1  inp tail 0 sky130_fd_pr__nfet_01v8 L=0.5 W=8  nf=1 mult=1
XM2  out inn tail 0 sky130_fd_pr__nfet_01v8 L=0.5 W=8  nf=1 mult=1

* --- PMOS current-mirror load ---
XM3  n1  n1  vdd vdd sky130_fd_pr__pfet_01v8 L=1 W=6 nf=1 mult=1
XM4  out n1  vdd vdd sky130_fd_pr__pfet_01v8 L=1 W=6 nf=1 mult=1
